US09353096B2
5-Bromo-2-methoxypyridine (247 mg, 1.31 mmol) was dissolved in toluene (6 mL) and cooled to −75° C. t-Butyl lithium (0.77 mL of 1.7 M in pentane, 1.3 mmol) was added dropwise. Stirring was continued at the same temperature for 15 min and then in an ice bath for 5 min. The reaction was cooled to −75° C. and a solution of (S)-2-(methoxy-methyl-carbamoyl)-morpholine-4-carboxylic acid tert-butyl ester (300 mg, 1.09 mmol) in toluene (3 mL) was added dropwise over 5 min. The reaction was stirred at 0° C. for 1.25 h and then poured onto water. The mixture was extracted 3 times with ethyl acetate. The combined organic phase was washed with brine, dried over MgSO4 and concentrated. The crude product was purified by flash chromatography (1:1 EtOAc/heptane eluent) to afford (S)-2-(6-methoxy-pyridine-3-carbonyl)-morpholine-4-carboxylic acid tert-butyl ester (315 mg, 89%) as a colorless oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.49 (s, 9H) 2.97-3.25 (m, 2H) 3.63-3.76 (m, 1H) 3.85-3.97 (m, 1H) 4.02 (s and overlapping m, 4H) 4.10-4.32 (m, 1H) 4.50-4.66 (m, 1H) 6.80 (dd, J=8.87, 0.54 Hz, 1H) 8.17 (dd, J=8.87, 2.42 Hz, 1H) 8.91 (d, J=2.42 Hz, 1H).

reactant | 5-Bromo-2-methoxypyridine | 1.31 mmol, 247 mg | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | t-Butyl lithium | 1.3 mmol, 1.7 M, 0.77 mL | C(C)(C)(C)[Li]
reactant | (S)-2-(methoxy-methyl-carbamoyl)-morpholine-4-carboxylic acid tert-butyl ester | 1.09 mmol, 300 mg | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)C(N(C)OC)=O | C12H22N2O5
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2-(6-methoxy-pyridine-3-carbonyl)-morpholine-4-carboxylic acid tert-butyl ester | 315 mg, 89% | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)C(=O)C=1C=NC(=CC1)OC | C16H22N2O5
